US07060827B2
In a manner analogous to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine (50 mg, 0.21 mmol) and 3-pyridylmethylamine (68 mg, 0.63 mmol) gave 5-fluoro-N4-(3-hydroxyphenyl)-N2-(3-pyridylmethyl)-2,4-pyrimidinediamine (40 mg, 62%). 1H NMR (CDCl3): δ 4.40 (d, J=6.3 Hz, 2H), 5.60 (br, 1H), 6.62–6.70 (m, 3H), 7.05 (br, 1H), 7.14 (t, J=8.1 Hz, 1H), 7.30 (dd, J=5.1 and 7.8 Hz, 1H), 7.73 (d, J=7.5 Hz, 1H), 7.80 (d, J=3.3 Hz, 1H), 8.49 (d, J=4.5 Hz, 1H), 8.66 (s, 1H); 19F NMR (282 MHz, CDCl3): δ −169.52; LCMS: ret. time: 9.41 min.; purity: 99.25%; MS (m/e): 312.01 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | 0.21 mmol, 50 mg | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3-pyridylmethylamine | 0.63 mmol, 68 mg | N1=CC(=CC=C1)CN | C6H8N2
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-(3-pyridylmethyl)-2,4-pyrimidinediamine | 40 mg, 62% | FC=1C(=NC(=NC1)NCC=1C=NC=CC1)NC1=CC(=CC=C1)O | C16H14FN5O
